US07351719B2
167a) ethyl (2-bromo-4-trifluoromethyl-phenylamino)-acetate
Prepared analogously to Example 166a starting from 2-bromo-4-trifluoromethyl-phenylamine and ethyl bromoacetate.

reactant | 2-bromo-4-trifluoromethyl-phenylamine | BrC1=C(C=CC(=C1)C(F)(F)F)N | C7H5BrF3N
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | ethyl (2-bromo-4-trifluoromethyl-phenylamino)-acetate | BrC1=C(C=CC(=C1)C(F)(F)F)NCC(=O)OCC | C11H11BrF3NO2
